US04060533
A mixture of 10.0 grams (0.0324 mole) of 5,6-dihydro-2,6-diphenyl-N-methyl-4-oxo-4H-pyran-3-carboxamide, 11.0 grams (0.0485 mole) of dichloro dicyanoquinone and 200 milliliters of benzene is refluxed for 18 hours. The mixture is cooled and the precipitate filtered and washed with benzene and methylenedichloride. The filtrate is evaporated to dryness and the residue is partitioned between methylenedichloride and 2N sodium hydroxide and the layers separated. The organic layer is washed with 2N sodium hydroxide, water and 50 percent brine, dried over magnesium sulfate, filtered and evaporated in vacuo. The residue is dissolved in a hot 50:50 mixture of ethanol:methanol, treated with decolorizing charcoal, filtered and evaporated in vacuo. The residue is crystallized from ethanol to give 2,6-diphenyl-N-methyl-4-oxo-4H-pyran-3-carboxamide, m.p. 196° C. - 197° C.

reactant | 5,6-dihydro-2,6-diphenyl-N-methyl-4-oxo-4H-pyran-3-carboxamide | 0.0324 mole, 10.0 grams | C1(=CC=CC=C1)C=1OC(CC(C1C(=O)NC)=O)C1=CC=CC=C1 | C19H17NO3
solvent | benzene | 200 milliliters | C1=CC=CC=C1 | C6H6
product | 2,6-diphenyl-N-methyl-4-oxo-4H-pyran-3-carboxamide | C1(=CC=CC=C1)C=1OC(=CC(C1C(=O)NC)=O)C1=CC=CC=C1 | C19H15NO3
